US07074970B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (0.01 mmol) and sodium carbonate (0.03 mmol) in toluene (1.0 ml), 1-octanol (130 mg, 1 mmol) and isopropenyl acetate (5 mmol) were added, followed by stirring at 100° C. in an atmosphere of argon gas for 15 hours. The reaction mixture was analyzed by gas chromatography to find that 1-octyl isopropenyl ether, 2,2-bis(1-octyloxy)propane, and octyl acetate were produced in yields of 78%, 4%, and 16%, respectively, with a conversion from 1-octanol of 98%.

reactant | sodium carbonate | 0.03 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-octanol | 1 mmol, 130 mg | C(CCCCCCC)O | C8H18O
reactant | isopropenyl acetate | 5 mmol | C(C)(=O)OC(=C)C | C5H8O2
reactant | 1-octyl isopropenyl ether | C(=C)(C)OCCCCCCCC | C11H22O
reactant | 2,2-bis(1-octyloxy)propane | C(CCCCCCC)OC(C)(C)OCCCCCCCC | C19H40O2
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | octyl acetate | C(C)(=O)OCCCCCCCC | C10H20O2
